US08957068B2
To a round bottom flask containing (R)—N—((S)-1-(2-fluoro-4-(prop-1-en-2-yl)phenyl)ethyl)-2-methylpropane-2-sulfinamide (204 mg, 0.72 mmol) and a stir bar was added MeOH (7.2 mL). To this solution was added palladium on carbon (77 mg, 10%, 0.07 mmol) in MeOH (1 mL). A hydrogen atmosphere was inserted and the resulting reaction mixture stirred at room temperature for 18 hours, at which time more palladium on carbon was added (300 mg) in MeOH (5 mL). A hydrogen atmosphere was inserted again and the reaction mixture allowed to stir an additional 18 hours at room temperature. The reaction mixture was filtered through a syringe filter and concentrated to afford a light brown viscous oil of (R)—N—((S)-1-(2-fluoro-4-isopropylphenyl)ethyl)-2-methylpropane-2-sulfinamide (149 mg, 0.52 mmol, 73% yield) which crystallizes upon standing. 1H NMR (400 MHz, CDCl3) δ 1.20 (s, 9H) 1.24 (d, J=5.87 Hz, 6H) 1.58 (d, J=6.70 Hz, 3H) 2.89 (dt, J=13.79, 6.90 Hz, 1H) 3.35 (d, J=5.04 Hz, 1H) 4.76-4.85 (m, 1H) 6.90 (dd, J=12.03, 1.52 Hz, 1H) 6.98 (dd, J=7.90, 1.54 Hz, 1H) 7.24 (t, J=7.97 Hz, 1H). LCMS m/z 286.3 (M+H)+, Rt 1.01 min.

reactant | (R)—N—((S)-1-(2-fluoro-4-(prop-1-en-2-yl)phenyl)ethyl)-2-methylpropane-2-sulfinamide | 0.72 mmol, 204 mg | FC1=C(C=CC(=C1)C(=C)C)[C@H](C)N[S@](=O)C(C)(C)C | C15H22FNOS
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.07 mmol, 77 mg | [Pd] | Pd
solvent | MeOH | 1 mL | CO | CH4O
solvent | MeOH | 5 mL | CO | CH4O
solvent | MeOH | 7.2 mL | CO | CH4O
product | (R)—N—((S)-1-(2-fluoro-4-isopropylphenyl)ethyl)-2-methylpropane-2-sulfinamide | 0.52 mmol, 149 mg, 73% yield | FC1=C(C=CC(=C1)C(C)C)[C@H](C)N[S@](=O)C(C)(C)C | C15H24FNOS
